* R1 local follow-up: R_Q=100 ohm after the initial R_Q=15 ohm overload.
* Canonical SL -> R_IN -> B_TRIG.  B_TRIG drives a lossy primary branch
* and a mutually coupled output loop.  No JTL or downstream receiver is used.
.subckt R1_RECEIVER IN

R_IN          IN          N_TRIG       12.0
B_TRIG        N_TRIG      0            jjmit area=0.50
I_TRIG_BIAS   0           N_TRIG       pwl(0p 0 2p 15U 80p 15U 140p 15U 200p 15U)

* Dynamic trigger quench / feedback branch.  R_Q is inactive at DC and
* dissipates the trigger voltage excursion when B_TRIG runs.
L_Q           N_TRIG      N_Q         1.0p
R_Q           N_Q         0           100.0

* Minimal quantizing transfer: the trigger branch couples into the output
* loop.  The positive sign follows the stated branch-current orientations.
L_SEC         N_SEC       OUT_PORT    2.0p
K_TX          L_Q         L_SEC       0.80

* Subcritical output JJ, locally damped and terminated; this is not a JTL.
B_OUT         N_OUT       N_SEC       jjmit area=0.50
I_OUT_BIAS   0           N_OUT        pwl(0p 0 2p 35U 80p 35U 140p 35U 200p 35U)
R_OUT_DAMP   N_OUT       N_SEC       20.0
R_LOAD       OUT_PORT   0           12.0

.ends R1_RECEIVER
