* R12-A Phase A: historical DCSFQ_BVM 300uA strong bump.
.include ../../../../circuits/models/jjmit.cir
.include ../../../../circuits/interface/DCSFQ_BVM.cir

.param IIN=300u
XDCSFQ IN1 OUT1 THmitll_DCSFQ_BVM
R_LOAD OUT1 0 10
I_IN 0 IN1 pwl(0 0 10p 0 12p IIN 40p IIN 45p 0)

.tran 0.1p 200p
.print P(B1|XDCSFQ) V(B1|XDCSFQ) I(B1|XDCSFQ) P(B2|XDCSFQ) V(B2|XDCSFQ) I(B2|XDCSFQ) P(B3|XDCSFQ) V(B3|XDCSFQ) I(B3|XDCSFQ)
.print I(L1|XDCSFQ) I(L2|XDCSFQ) I(L3|XDCSFQ) I(L4|XDCSFQ) I(L5|XDCSFQ) I(L6|XDCSFQ) I(LB1|XDCSFQ) I(LB2|XDCSFQ)
.print I(IB1|XDCSFQ) I(IB2|XDCSFQ) I(RB1|XDCSFQ) I(RB2|XDCSFQ) I(RB3|XDCSFQ)
.print V(IN1) V(OUT1) I(I_IN) I(R_LOAD)
.end
